US08236319B2
Methyl 3-(acetylthio)-4-azidobutanoate
To the solution of (E)-Methyl 4-azidobut-2-enoate (4.00 g, 28.37 mmol) in 60 ml of THF at 0° C. was added the mixture of thiolacetic acid (3.0 ml, 42.09 mmol) and DIPEA (8.0 ml, 45.92 mmol) in 60 ml of THF in 20 min. After stirred at 0° C. for 1 hr, the mixture was stirred at RT overnight, evaporated, redissolved in CH2Cl2, washed with NaHCO3 (sat.) and 1 M NaH2PO4/NaCl (sat.), pH 4 respectively, dried over MgSO4, filtered, evaporated and chromatographic purification on SiO2 column eluted with EtAc/Hexane (1:8 to 1:4) to afford HRMS for 4.98 g (81%) of the title product. 1H NMR (CDCl3) 3.66 (m, 1H), 3.62 (s, 3H), 3.40 (dd, 1H, J=7.5, 12.7 Hz), 3.31 (m, 1H), 2.78 (m, 1H), 2.60 (m, 1H), 2.32 (s, 3H); 13C NMR (DMF-d7) 192.20, 172.48, 56.56, 53.60, 51.31, 34.58, 30.56; ESI MS m/z+ 240.0 (M+Na), 255.9 (M+K); HRMS m/Z+ (C7H11N3O3S+Na) calcd 240.0419, found 240.0415.

reactant | (E)-Methyl 4-azidobut-2-enoate | 28.37 mmol, 4.00 g | N(=[N+]=[N-])C/C=C/C(=O)OC | C5H7N3O2
reactant | thiolacetic acid | 42.09 mmol, 3.0 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | DIPEA | 45.92 mmol, 8.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | Methyl 3-(acetylthio)-4-azidobutanoate | 4.98 g, 81% | C(C)(=O)SC(CC(=O)OC)CN=[N+]=[N-] | C7H11N3O3S
